US07619086B2
Step 2: Ethyl 2-oxo-2-[N-methyl-N-(pyrimidin-2-yl)methylamino]acetate
A solution ethyl 2-oxo-2-[(pyrimidin-2-yl)methylamino]acetate from the previous step (1.0 g, 4.8 mmol) and iodomethane (0.5 mL, 8 mmol) in DMF (15 mL) was cooled to 0° C. and NaH (0.23 g of a 60% dispersion in mineral oil, 5.7 mmol) was added. The cooling bath was removed and the mixture was stirred at ambient temperature for 18 hours. Ethanol was added to quench the reaction and the solvent was removed under reduced pressure. The residue was purified by pressurized silica gel column chromatography using a gradient of 80-100% EtOAc in hexanes. The solvent was removed under reduced pressure from the fractions containing product to give the title compound as an oil. 1H NMR (400 MHz, DMSO-d6) δ 8.81 (m, 2H), 7.45 (m, 1H), 4.74 (m, 2H), 4.32, 4.13 (two q, rotamers, J=7 Hz, 2H), 3.08, 3.00 (two s, rotamers, 3H), 1.30, 1.08 (two t, rotamers, 3H); ES MS M+1=224.

reactant | ethyl 2-oxo-2-[(pyrimidin-2-yl)methylamino]acetate | O=C(C(=O)OCC)NCC1=NC=CC=N1 | C9H11N3O3
reactant | iodomethane | 8 mmol, 0.5 mL | IC | CH3I
reactant | NaH | [H-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-oxo-2-[N-methyl-N-(pyrimidin-2-yl)methylamino]acetate | O=C(C(=O)OCC)N(CC1=NC=CC=N1)C | C10H13N3O3
